US07973078B2
668 mg of N-[4-(benzyloxy)benzyl]-N2-(3-chloro-2-methylphenyl)-N2-[(4-methylphenyl)sulfonyl]glycinamide was dissolved in 5.00 mL of methanol and 2.00 mL of THF, and 70 mg of 10% Pd—C (Kawaken, AD type, water content 54%) was added thereto, followed by stirring at room temperature for 6.5 hours under a hydrogen atmosphere. The reaction liquid was filtered through Celite, the filtrate was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=50:50 to 30:70) to obtain a product, which was recrystallized from ethanol/water to obtain 373 mg of N2-(3-chloro-2-methylphenyl)-N-(4-hydroxybenzyl)-N2-[(4-methylphenyl)sulfonyl] glycinamide.

reactant | N-[4-(benzyloxy)benzyl]-N2-(3-chloro-2-methylphenyl)-N2-[(4-methylphenyl)sulfonyl]glycinamide | 668 mg | C(C1=CC=CC=C1)OC1=CC=C(CNC(CN(S(=O)(=O)C2=CC=C(C=C2)C)C2=C(C(=CC=C2)Cl)C)=O)C=C1 | C30H29ClN2O4S
solvent | methanol | 5.00 mL | CO | CH4O
solvent | THF | 2.00 mL | C1CCOC1 | C4H8O
catalyst | Pd—C | 70 mg | [Pd] | Pd
product | N2-(3-chloro-2-methylphenyl)-N-(4-hydroxybenzyl)-N2-[(4-methylphenyl)sulfonyl] glycinamide | 373 mg | ClC=1C(=C(C=CC1)N(CC(=O)NCC1=CC=C(C=C1)O)S(=O)(=O)C1=CC=C(C=C1)C)C | C23H23ClN2O4S
